US05434165
4-Amino-3-(1-azabicyclo[3.3.0]octan-5-yl)methylcarbonylaminoquinoline
3,4-Diaminoquinoline and 5-chlorocarbonylmethyl-1-azabicyclo[3.3.0]octane hydrochloride were reacted in the same manner as in Example 3 to obtain the titled compound in a yield of 53.0%.

reactant | 3,4-Diaminoquinoline | NC=1C=NC2=CC=CC=C2C1N | C9H9N3
reactant | 5-chlorocarbonylmethyl-1-azabicyclo[3.3.0]octane hydrochloride | Cl.ClC(=O)CC12CCCN2CCC1
product | 4-Amino-3-(1-azabicyclo[3.3.0]octan-5-yl)methylcarbonylaminoquinoline | yield of 53.0% | NC1=C(C=NC2=CC=CC=C12)NC(=O)CC12CCCN2CCC1 | C18H22N4O
